US06562811B1
To a stirred solution of tert-butyl 3-[2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-3-(hydroxymethyl)-4-pyridinyl]-1-piperidinecarboxylate (0.501 g, 0.850 mmol) in 1,4-dioxane was added 37% formaldehyde solution (5.000 mL) and 1N HCl (5.000 mL). The mixture was stirred at room temperature for 2 hrs. The reaction mixture was extracted with ethyl acetate and water. The separated organic phase was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (ethyl acetate/hexane=3/2) to give 1,1-dimethylethyl (tert-butyl)-3-{7-[2-[(cyclopropylmethyl)oxy]-6-({[4-(methyloxy)phenyl]methyl}oxy)phenyl]-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl}-1-piperidinecarboxylate as a colorless foam (0.319 g, yield; 62%).

reactant | tert-butyl 3-[2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-3-(hydroxymethyl)-4-pyridinyl]-1-piperidinecarboxylate | 0.850 mmol, 0.501 g | NC1=NC(=CC(=C1CO)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OCC1CC1 | C34H43N3O6
reactant | formaldehyde | 5.000 mL | C=O | CH2O
reactant | HCl | 1N, 5.000 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 1,1-dimethylethyl (tert-butyl)-3-{7-[2-[(cyclopropylmethyl)oxy]-6-({[4-(methyloxy)phenyl]methyl}oxy)phenyl]-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl}-1-piperidinecarboxylate | 0.319 g, yield; 62% | C(C)(C)(C)C1N(CCCC1C1=CC(=NC=2NCOCC21)C2=C(C=CC=C2OCC2=CC=C(C=C2)OC)OCC2CC2)C(=O)OC(C)(C)C | C39H51N3O6
